* Z:\home\facu\Documentos\Mi_repositorio\TC2\Trabajo_semanal3\simulacion\5_circuitoFDNR\circuito.asc
V1 Vin 0 AC 1
XU1 N001 N002 N001 opamp Aol=100K GBW=10Meg
R3 N002 Vin 0.8
C2 N002 0 1
R2 Vout N001 0.63
C1 Vout 0 1.26
C3 Vout N003 1
R1 N003 N005 1
R5 N004 N006 1
XU2 N005 N006 N003 opamp Aol=100K GBW=10Meg
XU3 N005 Vout N004 opamp Aol=100K GBW=10Meg
C4 N005 N004 1
R4 N006 0 1
.lib opamp.sub
.ac dec 100000 0.0001 10
.backanno
.end
